US06177452B1
Sodium hydride (60% dispersion in oil, 0.60 g) was added to 2-propanol (20 ml), and stirred at room temperature for 10 minutes. To the reaction mixture was added 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid (1.43 g), and stirred under reflux for 30 minutes. Next, water was added to the resulting reaction mixture, which was then acidified with 2N hydrochloric acid, and the crystals thus precipitated were collected by filtration to obtain 4-(4-chlorophenyl)-2-isopropoxy-5-oxazolepropionic acid (1.35 g, 87%). This was recrystallized from isopropyl ether to give colorless prisms. mp 116-117° C.

reactant | Sodium hydride | 0.60 g | [H-].[Na+]
reactant | 2-propanol | 20 ml | CC(C)O | C3H8O
reactant | 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid | 1.43 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
product | 4-(4-chlorophenyl)-2-isopropoxy-5-oxazolepropionic acid | 1.35 g, 87% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)OC(C)C | C15H16ClNO4
